US07687495B2
a) (2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-2-(2-methylcarbamoyl-ethyl)-piperidine-1 carboxylic acid benzyl ester
Similar to example 6a, 80.0 mg of (2R,4R,5R)-2-(2-carboxy-ethyl)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1 carboxylic acid benzyl ester are reacted with methylamine to afford the title compound as a yellow oil. Rf=0.35 (dichlormethane-methanol 9:1); Rt=4.69.

reactant | (2R,4R,5R)-2-(2-carboxy-ethyl)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1 carboxylic acid benzyl ester | 80.0 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)CCC(=O)O | C36H44N2O8
reactant | methylamine | CN | CH5N
product | (2R,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-2-(2-methylcarbamoyl-ethyl)-piperidine-1 carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)CCC(NC)=O | C37H47N3O7
